US06649618B2
c) N-[3-(2,4-dioxo-3,4,5,6,7,8-hexahydro-1(2H)-quinazolinyl)propyl]-4-fluoro-N-methylphenylsulphonamide
A solution of 75 mg (0.32 mmol) of 1-[3-(methylamino)propyl]-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione and 61.5 mg (0.32 mmol) of 4-fluorophenylsulphonyl chloride in 3 ml of pyridine is stirred at room temperature overnight. The reaction mixture is then adjusted to pH 1 using 2-molar hydrochloric acid and extracted twice with in each case 20 ml of ethyl acetate. The organic phase is concentrated under reduced pressure and the resulting residue is purified by preparative HPLC (RP-C18, acetonitrile/water gradient). This gives 43.1 mg (34% yield) of the product as an amorphous solid.

reactant | 1-[3-(methylamino)propyl]-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | 0.32 mmol, 75 mg | CNCCCN1C(NC(C=2CCCCC12)=O)=O | C12H19N3O2
reactant | 4-fluorophenylsulphonyl chloride | 0.32 mmol, 61.5 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | hydrochloric acid | 2-molar | Cl | ClH
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(2,4-dioxo-3,4,5,6,7,8-hexahydro-1(2H)-quinazolinyl)propyl]-4-fluoro-N-methylphenylsulphonamide | 43.1 mg, 34% yield | O=C1N(C=2CCCCC2C(N1)=O)CCCN(S(=O)(=O)C1=CC=C(C=C1)F)C | C18H22FN3O4S
